US06544985B2
{5-(Isobutyl-methyl-amino)-2-[3-oxo-3-(3-[1,2,4]triazol-1-yl-phenyl)-propionylamino]-4-trifluoromethyl-phenyl}-carbamic acid tert-butyl ester
The title compound was prepared from [2-amino-5-(isobutyl-methyl-amino)-4-trifluoromethyl-phenyl]-carbamic acid tert-butyl ester (Example J36) (361 mg, 1.0 mmol) and 3-oxo-3-(3-[1,2,4]triazol-1-yl-phenyl)-propionic acid tert-butyl ester (Example K25) (287 mg, 1.0 mmol) according to the general procedure M. Obtained as a light red foam (490 mg, 85%).

reactant | [2-amino-5-(isobutyl-methyl-amino)-4-trifluoromethyl-phenyl]-carbamic acid tert-butyl ester | 1.0 mmol, 361 mg | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)N(C)CC(C)C)C(F)(F)F)N)=O | C17H26F3N3O2
reactant | 3-oxo-3-(3-[1,2,4]triazol-1-yl-phenyl)-propionic acid tert-butyl ester | 1.0 mmol, 287 mg | C(C)(C)(C)OC(CC(C1=CC(=CC=C1)N1N=CN=C1)=O)=O | C15H17N3O3
product | {5-(Isobutyl-methyl-amino)-2-[3-oxo-3-(3-[1,2,4]triazol-1-yl-phenyl)-propionylamino]-4-trifluoromethyl-phenyl}-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)N(C)CC(C)C)C(F)(F)F)NC(CC(C1=CC(=CC=C1)N1N=CN=C1)=O)=O)=O | C28H33F3N6O4
